US06124323
4-(-4-Methylbenzyl)-1-(2-(4-nitrophenoxy)ethyl)piperidine
From a mixture of 4-(4-methylbenzyl)piperidine (2.27 g, 12.0 mmol), 2-(4-nitrophenoxy)ethyl bromide (1.42 g, 6.0 mmol), K2CO3 (130 mg) and KI (120 mg) in toluene (25 mL) was obtained 2.02 g (100%) of the title compound as a viscous oil. 1H NMR (CDCl3): 1.25-1.38 (m, 2H), 1.46-1.56 (m, 1H), 1.63-1.67 (m, 2H), 2.01-2.09 (m, 2H), 2.314 (s, 3H), 2.498 (d, 2H), J=7), 2.797 (t, 2H), J=6), 2.94-2.98 (m, 2H), 4.171 (t, 21, J=6), 6.950 (d, 26, J=9), 7.059 (AB, 4H, J=8), 8.191 (d, 2H, J=9). The hydrochloride, mp. 180-1° C.

reactant | 4-(4-methylbenzyl)piperidine | 12.0 mmol, 2.27 g | CC1=CC=C(CC2CCNCC2)C=C1 | C13H19N
reactant | 2-(4-nitrophenoxy)ethyl bromide | 6.0 mmol, 1.42 g | [N+](=O)([O-])C1=CC=C(OCCBr)C=C1 | C8H8BrNO3
reactant | K2CO3 | 130 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(-4-Methylbenzyl)-1-(2-(4-nitrophenoxy)ethyl)piperidine | 2.02 g, 100% | CC1=CC=C(CC2CCN(CC2)CCOC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C21H26N2O3
